US04414216
A mixture of 7.4 g of 1-(4-fluorophenyl)-4-penten-1-ol and 8.0 g of N-bromosuccinimide in 100 ml of chloroform is stirred at room temperature for 3 hours. The reaction mixture is then washed with water and dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is purified by column chromatography on silica gel with chloroform eluant to give 9.8 g of 2-(4-fluorophenyl)-5-(bromomethyl)tetrahydrofuran as colorless oil, nD27 1.5218.

reactant | 1-(4-fluorophenyl)-4-penten-1-ol | 7.4 g | FC1=CC=C(C=C1)C(CCC=C)O | C11H13FO
reactant | N-bromosuccinimide | 8.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-fluorophenyl)-5-(bromomethyl)tetrahydrofuran | 9.8 g | FC1=CC=C(C=C1)C1OC(CC1)CBr | C11H12BrFO
